US05608056
To a solution of 1-methyl-1,2,4-triazole (3.12 g) in tetrahydrofuran (47 ml) at -70° C. was added dropwise n-butyllithium (1.6N) in hexane (25.5 ml) keeping the temperature below -60° C. After 15 minutes at -70° C., the mixture was warmed quickly to 0° C., stirred 5 minutes then recooled to -70° C. and stirred for 30 minutes. To the mixture was added a solution of (2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine (10.0 g) in tetrahydrofuran (10 ml) keeping the temperature below -60° C. After 30 minutes the cooling bath was removed and the mixture was warmed to 0° C. over 30 minutes. After a further 2 hours the mixture was quenched with saturated sodium bicarbonate solution and extracted with ethyl acetate (×2). The combined organic layer was washed with brine and water, dried over magnesium sulfate and evaporated under reduced pressure. The residue was column chromatographed on silica gel (300 g, eluting with chloroform-methanol (30:1)) and then again on silica gel (300 g) eluting with ethyl acetate) to give 1-{(2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-(1-methyl-1,2,4-triazol-5-yl) methanol (6.16 g) (as a 4.3:1 mixture of diastereoisomers).

reactant | 1-methyl-1,2,4-triazole | 3.12 g | CN1N=CN=C1 | C3H5N3
reactant | n-butyllithium | 1.6N | C(CCC)[Li]
reactant | (2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine | 10.0 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C18H29NO2Si
solvent | tetrahydrofuran | 47 ml | O1CCCC1 | C4H8O
solvent | hexane | 25.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{(2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-(1-methyl-1,2,4-triazol-5-yl) methanol | 6.16 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C1=NC=NN1C | C21H34N4O2Si
